US05277838
20.0 g (0.101 mol) of 4-dimethylsilylbenzoyl chloride were added dropwise at 10° C.-15° C. to a solution of 8.90 g (0.101 mol) of 2-methylbutan-1-ol in 20 ml of dry pyridine. The reaction solution was stirred for one hour at 25° C., poured onto ice and acidified using HCl. The organic phase was separated off, diluted with toluene and washed by shaking three times with 10% HCl. It was washed with water and dried over sodium sulfate. After the toluene had been stripped off in vacuo on a rotary evaporator, distillation gave 2-methylbutyl 4-dimethylsilylbenzoate; boiling point 86° C.-110° C./0.05 mmHg.

reactant | 4-dimethylsilylbenzoyl chloride | 0.101 mol, 20.0 g | C[SiH](C1=CC=C(C(=O)Cl)C=C1)C | C9H11ClOSi
reactant | 2-methylbutan-1-ol | 0.101 mol, 8.90 g | CC(CO)CC | C5H12O
reactant | HCl | Cl | ClH
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-methylbutyl 4-dimethylsilylbenzoate | C[SiH](C1=CC=C(C(=O)OCC(CC)C)C=C1)C | C14H22O2Si
